US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid
To an ice-cold flask with a rubber stopper were added 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde (22.35 g, 0.0975 mol) and 3,4-diamino-benzoic acid (17.2 g, 0.113 mol) and the solid mixture was stirred at 0° C. for 15 min. Then DMA (120 mL) was added into the mixture via a syringe and the resulting solution was stirred at 0° C. for 2 h, and at the room temperature for 3 h. The rubber stopper was removed and the reaction mixture was stirred at 110° C. for 14 h open to the air. The DMA was removed under reduced pressure and the residue was mixed with 200 mL EtOAc, and sonicated for 15 min. The mixture was filtered to get the solid precipitate, which was mixture with 150 mL EtOAc, and sonicated for 5 min. The resulting mixture was filtered to get the solid crude that was dried at 40° C. for 6 h under reduced pressure to afford a mixture of the title compound and DMA (ratio 1:1) (16.15 g, 38%). 1H NMR (DMSO-d4) δ 3.92 (s, 3H), 7.14 (m, 1H), 7.15 (s, 1H), 7.64 (d, J=6 Hz, 1H), 7.74 (d, J=6 Hz, 1H), 7.84 (d, J=6 Hz, 1H), 7.91 (d, J=6 Hz, 1H), 8.19 (d, J=6 Hz, 1H), 8.21 (d, J=6 Hz, 1H), 8.29 (s, 1H). DMA also shows as 61.96 (s, 3H), 2.79 (s, 3H) and 2.94 (s, 3H). ESI-MS m/z 362.5 (MH+).

reactant | 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde | 0.0975 mol, 22.35 g | OC1=C(C=O)C=C(C=C1)C=1C(=NC=CC1)OC | C13H11NO3
reactant | 3,4-diamino-benzoic acid | 0.113 mol, 17.2 g | NC=1C=C(C(=O)O)C=CC1N | C7H8N2O2
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | DMA | 16.15 g | CC(=O)N(C)C | C4H9NO
solvent | DMA | 120 mL | CC(=O)N(C)C | C4H9NO
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid | OC1=C(C=C(C=C1)C=1C(=NC=CC1)OC)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C20H15N3O4
